US04476056
(4-Trifluoromethoxy-2,3,6-trimethylphenyl)methyltriphenylphosphonium Chloride
The crude (4-trifluoromethoxy-2,3,6-trimethylphenyl)methyl chloride, 27.5 g (0.104 mol) of triphenylphosphine and 250 ml of acetonitrile were heated to reflux for 20 hours. The solvent was removed on a rotary evaporator at room temperature and the residue was triturated with 300 ml of ethyl acetate. The resulting solid was filtered, dissolved in 250 ml of hot acetonitrile and treated with 1 liter of ethyl acetate. The mixture was allowed to stand 2 hours; 38 g of (4-trifluoromethoxy-2,3,6-trimethylphenyl)methyltriphenylphosphonium chloride was collected; mp 272°-274° C. In a similar manner, the mother liquor afforded an additional 10.5 g of product.

reactant | (4-trifluoromethoxy-2,3,6-trimethylphenyl)methyl chloride | FC(OC1=C(C(=C(C(=C1)C)CCl)C)C)(F)F | C11H12ClF3O
reactant | triphenylphosphine | 0.104 mol, 27.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (4-Trifluoromethoxy-2,3,6-trimethylphenyl)methyltriphenylphosphonium Chloride | 10.5 g | [Cl-].FC(OC1=C(C(=C(C(=C1)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C)(F)F | InChI=1S/C29H27F3OP.ClH/c1-21-19-28(33-29(30,31)32)23(3)22(2)27(21)20-34(24-13-7-4-8-14-24,25-15-9-5-10-16-25)26-17-11-6-12-18-26;/h4-19H,20H2,1-3H3;1H/q+1;/p-1
